US04299821
2.63 g (5 mmoles) of Z-Gln-His-D-Pip-NH2 are dissolved in 50 ml of acetic acid, 0.5 g of a 10% palladium-on-carbon catalyst are added, and hydrogen is bubbled through the mixture for one hour. The catalyst is filtered off, the filtrate is heated to 60°-70° C., maintained at this temperature for 30 minutes, and then evaporated in vacuo. The residue is dissolved in water, the solution is passed through Dowex 2 ion exchange resin in the OH cycle, and then evaporated. The resulting crude product is applied onto the top of a silica gel column, and the column is eluted with solvent mixture (1). The fractions which contain the pure product are combined and evaporated. The residue is dissolved in water, the solution is decolourized, filtered, and the clear filtrate is evaporated. The amorphous residue is dried in vacuo over phosphorous pentoxide. 704 mg (51%) of Glp-His-D-Pip-NH2 are obtained; Rf4 =0.10; [α]D25 =+16.0° (c=1%, in water). Amino acid analysis: Glu: 1.03 (1.0), His: 1.00 (1.0), Pip: 0.96 (1.0).

reactant | Z-Gln-His-D-Pip-NH2 | 5 mmoles, 2.63 g | N([C@@H](CCC(N)=O)C(=O)N[C@@H](CC1=CNC=N1)C(=O)N1[C@@H](C(=O)N)CCCC1)C(=O)OCC1=CC=CC=C1 | C25H33N7O6
solvent | acetic acid | 50 ml | C(C)(=O)O | C2H4O2
catalyst | palladium-on-carbon | [Pd] | Pd
product | Glp-His-D-Pip-NH2 | 704 mg, 51% | N1[C@@H](CCC1=O)C(=O)N[C@@H](CC1=CNC=N1)C(=O)N1[C@@H](C(=O)N)CCCC1 | C17H24N6O4
